### PR TITLE
feat(Mathlib/RingTheory/Henselian): transfer along ring isomorphisms

### PR DESCRIPTION
**Pull request by chrisflav**
Extracts three transfer lemmas from `Proetale/Algebra/WStrictLocalization.lean` (on the `archon` branch) into `Proetale/Mathlib/RingTheory/Henselian.lean`, expressed as bundled `theorem`s instead of `private lemma`s.

## Summary

* `IsSepClosed.of_ringEquiv` — `IsSepClosed` transfers along a ring isomorphism of fields.
* `HenselianLocalRing.of_ringEquiv` — `HenselianLocalRing` transfers along a ring isomorphism.
* `IsStrictlyHenselianLocalRing.of_ringEquiv` — `IsStrictlyHenselianLocalRing` transfers along a ring isomorphism (immediate consequence of the previous two).

These are utility lemmas used downstream when building the w-strict localization; surfacing them publicly makes them reusable.

## Test plan

- [x] `lake build Proetale/Mathlib/RingTheory/Henselian.lean` — clean
- [x] `lake build` (whole project) — clean

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: Proetale/Mathlib/RingTheory/Henselian.lean [hunk 1]
```diff
@@ -10,6 +11,51 @@ instance (R : Type*) [CommRing R] [IsStrictlyHenselianLocalRing R] :
...
+    intro hu
+    apply ha_diff
+    have : a - e.symm a₀ = e.symm (e a - a₀) := by simp
+    rw [this]
+    exact hu.map e.symm.toRingHom
+
+/-- `IsStrictlyHenselianLocalRing` transfers along a ring isomorphism. -/
+theorem IsStrictlyHenselianLocalRing.of_ringEquiv {R S : Type*} [CommRing R] [CommRing S]
+    [IsStrictlyHenselianLocalRing R] (e : R ≃+* S) : IsStrictlyHenselianLocalRing S :=
+  haveI : HenselianLocalRing S := .of_ringEquiv e
```
Comment (chrisflav) [inline Proetale/Mathlib/RingTheory/Henselian.lean]:
```suggestion
  have : HenselianLocalRing S := .of_ringEquiv e
```

File: Proetale/Mathlib/RingTheory/Henselian.lean [hunk 2]
```diff
@@ -10,6 +11,51 @@ instance (R : Type*) [CommRing R] [IsStrictlyHenselianLocalRing R] :
     IsSepClosed (IsLocalRing.ResidueField R) :=
   IsStrictlyHenselianLocalRing.isSepClosed_residueField
 
+/-- `HenselianLocalRing` transfers along a ring isomorphism. -/
+theorem HenselianLocalRing.of_ringEquiv {R S : Type*} [CommRing R] [CommRing S]
+    [HenselianLocalRing R] (e : R ≃+* S) : HenselianLocalRing S := by
+  haveI : IsLocalRing S := e.isLocalRing
```
Comment (chrisflav) [inline Proetale/Mathlib/RingTheory/Henselian.lean]:
```suggestion
  have : IsLocalRing S := e.isLocalRing
```

File: Proetale/Mathlib/RingTheory/Henselian.lean [hunk 3]
```diff
@@ -10,6 +11,51 @@ instance (R : Type*) [CommRing R] [IsStrictlyHenselianLocalRing R] :
...
+  refine HenselianLocalRing.mk fun f hf a₀ hmem hunit => ?_
+  let f' : Polynomial R := f.map e.symm.toRingHom
+  have heval : f'.eval (e.symm a₀) = e.symm (f.eval a₀) := by
+    change (f.map e.symm.toRingHom).eval (e.symm.toRingHom a₀) = e.symm.toRingHom (f.eval a₀)
+    exact Polynomial.eval_map_apply _ _
+  have hderiv : f'.derivative.eval (e.symm a₀) = e.symm (f.derivative.eval a₀) := by
+    change ((f.map e.symm.toRingHom).derivative).eval (e.symm.toRingHom a₀)
+      = e.symm.toRingHom (f.derivative.eval a₀)
```
Comment (chrisflav) [inline Proetale/Mathlib/RingTheory/Henselian.lean]: Avoid `change`. Instead rewrite with the correct API lemmas.

**Comment by chrisflav** [comment]
orchestra address review
